US08044069B2
Piperidin-4-one O-benzyl oxime
A solution of tert-butyl 4-oxopiperidine-1-carboxylate (524 mg, 2.63 mmol) and O-benzylhydroxylamine hydrochloride (504 mg, 3.16 mmol) in pyridine (5 mL) was stirred at ambient temperature for 18 hours. The reaction mixture was concentrated in vacuo and the residue was partitioned between ether and H2O. The separated organic phase was washed with 1 N aqueous HCl and brine, dried over MgSO4, filtered, and concentrated in vacuo to yield 816 mg of crude N-tert-butoxycarbonyl intermediate. This material was taken up in CH2Cl2 (5 mL), followed by addition of trifluoroacetic acid (5.0 mL, 65.0 mmol) via syringe. After stirring for 30 minutes at ambient temperature, the reaction was cooled to 0° C. and quenched by slow addition of 2 N aqueous NaOH solution (35 mL). The mixture was diluted with 75 mL CH2Cl2 and the phases were separated. The organic layer was washed with 1 N aqueous NaOH solution and brine, dried over Na2SO4, filtered, and concentrated in vacuo to give the title compound. 1H NMR (300 MHz, CDCl3) δ ppm 7.39-7.27 (m, 5H), 5.07 (s, 2H), 3.02-2.94 (m, 2H), 2.94-2.86 (m, 2H), 2.63-2.54 (m, 2H), 2.33-2.23 (m, 2H), 1.58 (bs, 1H); MS (DCI+) m/z 205 (M+H)+.

reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 2.63 mmol, 524 mg | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | O-benzylhydroxylamine hydrochloride | 3.16 mmol, 504 mg | Cl.C(C1=CC=CC=C1)ON
reactant | trifluoroacetic acid | 65.0 mmol, 5.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | Piperidin-4-one O-benzyl oxime | C(C1=CC=CC=C1)ON=C1CCNCC1 | C12H16N2O
